US07253286B2
Phenyl N-(3-methylthiopropyl)carbamate
3-Methylthiopropylamine (5.5 ml, 50 mmol) was used for reaction in the same manner as Production Example 310-1, and purification was performed by silica gel column chromatography (hexane/ethyl acetate system) to obtain the title compound (10.486 g, 46.54 mmol, 93.08%) as a yellow oil.

reactant | 3-Methylthiopropylamine | 50 mmol, 5.5 ml | CSCCCN | C4H11NS
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Phenyl N-(3-methylthiopropyl)carbamate | 46.54 mmol, 10.486 g, 93.08% | CSCCCNC(OC1=CC=CC=C1)=O | C11H15NO2S
